US03962445
b. 1,6-Dimethyl-4-hydroxy-3-nitro carbostyril
To a stirred suspension of 1,6-dimethyl-4-hydroxy carbostyril (1.70g; 0.009 mole) in glacial acetic acid (10 ml) was added concentrated nitric acid (2.5 ml; d, 1.42) with swirling. The solid dissolved on warming to 100°C to give a red solution which precipitated the 3-nitro compound as yellow crystals on cooling. m.p. 185°C. (Found: C, 56.05; H, 4.33; N, 11.86%, C11H10N2O4 requires; C, 56.41; H, 4.30; N, 11.96%).

reactant | 1,6-dimethyl-4-hydroxy carbostyril | 0.009 mole, 1.70g | CN1C(=O)C=C(C2=CC(=CC=C12)C)O | C11H11NO2
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1,6-Dimethyl-4-hydroxy-3-nitro carbostyril | CN1C(=O)C(=C(C2=CC(=CC=C12)C)O)[N+](=O)[O-] | C11H10N2O4
